US07713996B2
Di-tert-butyl carbonate (2.9 g, 13.5 mmol, 1 equiv.) was added to a stirred mixture of 4-methoxy-2,3-dihydro-1H-indole-6-carboxylic acid methyl ester (2.8 g 13.5 mmol, 1 equiv.) and diisopropyl ethyl amine (4.7 mL, 27 mmol, 2 equiv.) in tetrahydrofuran (30 mL) and the mixture was heated at reflux for 16 hours. The solvent was evaporated under vacuum and the residue purified by column chromatography (SiO2, 1:8 EtOAc:heptane). The fractions were combined to afford 4-methoxy-2,3-dihydro-indole-1,6-dicarboxylic acid 1-tert-butyl ester 6-methyl ester, 1.96 g (47% yield). δH (250 MHz; d6-DMSO) 7.80 (1H, s), 7.10 (1H, s), 3.96 (2H, t), 3.78 (6H, s), 3.03 (2H, t), 1.45 (9H, m).

reactant | Di-tert-butyl carbonate | 13.5 mmol, 2.9 g, 1 equiv. | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | 4-methoxy-2,3-dihydro-1H-indole-6-carboxylic acid methyl ester | 13.5 mmol, 2.8 g, 1 equiv. | COC(=O)C1=CC(=C2CCNC2=C1)OC | C11H13NO3
reactant | diisopropyl ethyl amine | 27 mmol, 4.7 mL, 2 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-methoxy-2,3-dihydro-indole-1,6-dicarboxylic acid 1-tert-butyl ester 6-methyl ester | 47% yield | COC(=O)C1=CC(=C2CCN(C2=C1)C(=O)OC(C)(C)C)OC | C16H21NO5
